US07939529B2
contacting 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide with hydrochloric acid to yield 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide dihydrochloride.

reactant | 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide | O1CCN(CC1)CCOC1=CC=C(C=C1)C=1C=CC(=NC1)CC(=O)NCC1=CC=CC=C1 | C26H29N3O3
reactant | hydrochloric acid | Cl | ClH
product | 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide dihydrochloride | Cl.Cl.O1CCN(CC1)CCOC1=CC=C(C=C1)C=1C=CC(=NC1)CC(=O)NCC1=CC=CC=C1 | InChI=1S/C26H29N3O3.2ClH/c30-26(28-19-21-4-2-1-3-5-21)18-24-9-6-23(20-27-24)22-7-10-25(11-8-22)32-17-14-29-12-15-31-16-13-29;;/h1-11,20H,12-19H2,(H,28,30);2*1H
